Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
CC:  shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI:  Ms. ___ is a ___ yo female with a history of COPD, type 
II DM, and CHF who presents with shortness of breath. She 
reports that she developed symptoms of rhinorrhea and sore 
throat approximately ___ days ago.  She reports night cough for 
the last few days with cough productive of thick yellow sputum.  
She has become progressively more short of breath and so 
presented to ED.  She notes dyspnea on exertion when walking to 
restroom.  She denies fevers/chills, chest pain, diaphoresis.  
Patient reports constipation at baseline.  Patient reports 
stress incontinence with coughing.  
.
In the ED, her vitals were 97.5, HR 107, BP 173/95, RR 17, 87% 
on 2L.
She was given solumedrol 125 IV, Ceftriaxone 1 g IV, 
azithromycin 500 mg PO.  Peak flow 270 after two nebs (baseline 
unknown).  She got two combivent nebs.  She reports improvement 
of shortness of breath with these interventions.
.
 
Past Medical History:
PMH:
rectal carcinoma s/p excision ___
hypercholesterolemia
type 2 DM
CHF, EF 70-80% in ___
COPD/asthma (no intubations, 5 exacerbations/year)
Anxiety/depression
h/o Shingles ___, on valtrex
.
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
PE:
VS: BP 140/70, O2 sat 94% on 2LNC, HR 101, RR 20
Gen: NAD, breathing comfortably, no accessory muscle use
HEENT:  o/p clear without erythema or exudate.  no sinus 
tenderness.
CV:  RRR, no m/r/g
Pulm: Clear to auscultation bilaterally, no wheezes/crackles
Abd: soft, nontender, nondistended, bowel sounds present
Ext: no edema
.
 
Pertinent Results:
Admission abs:
.
.  \ 13.7 / 
13.8 ---- 234
.  / 39.7 \
.
.
140 | 101 | 11 /
--------------- 178
3.6 | 29 | 0.6 \
.
TropT <0.01
CK 169
MB 5
.
BNP 120
.
EKG.  NSR at 95 bpm. normal axis.  Normal PR, QRS, and QT 
intervals.  No ST changes.  No TWIs.  No q waves.  
.
CXR. ___.  
IMPRESSION:  Bilateral discoid atelectasis, but no evidence for 
pneumonia.
 
Brief Hospital Course:
In summary, Ms. ___ is a ___ year old female with history of 
COPD/asthma, CHF, anxiety, and type II DM, who was admitted with 
shortness of breath likely due to COPD exacerbation.
.
COPD exacerbation.  Patient was admitted with shortness of 
breath due to a COPD exacerbation.  She was ruled out for MI and 
CXR did not show PNA or pulmonary edema.   She was treated with 
steroids, albuterol nebs, Levaquin, Spiriva, Advair, and 
Sinculair.  She was sent home on her home meds, prednisone 
taper, and Levaquin. 
.
Type II DM.  Patient takes glipizide at home, but this was held 
and patient was started in Humalog sliding scale because of the 
steroid use. 
.
Congenstive heart failure, compensated.  EF in ___ was found to 
be 70-80%.  There was no evidence of pulmonary edema or lower 
extremity edema on exam.  She was continued on captopril and 
HCTZ.
.
Hypercholesterolemia.  She was continued on lipitor.
.
Zoster.  Patient was diagnosed with Herpes Zoster of right scalp 
and upper face on ___.  She completed 7 day course of Valtrex 
while in the hospital. 
 
Medications on Admission:
Captopril 25 BID
Prozac (unclear dose
Montelukast 10 mg daily
Atorvastatin 40 mg daily
Advair 150-50 BID
Loraezpam 1 mg BID
Glipizide 5 mg daily
Albuterol PRN
Tiotropium Bromide 18 mcg daily
Valtrex 1 g TID (began ___, 7 day course)
 
Discharge Medications:
1. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.  
2. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
3. Captopril 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
7. Fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
8. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 6 days.
Disp:*6 Tablet(s)* Refills:*0*
11. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 18 doses: Please take 60 mg for three ___, 
___, ___). Take 40 mg for three days ___, ___, ___). Take 20 mg for 
three days ___, ___).  .
Disp:*18 Tablet(s)* Refills:*0*
12. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO HS 
(at bedtime) as needed.  
13. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
14. Albuterol 90 mcg/Actuation Aerosol Sig: One (1) inh 
Inhalation Q6H (every 6 hours) as needed for SOB.  
15. Guaifenesin DM ___ mg/5 mL Syrup Sig: One (1) 10 mL PO 
every six (6) hours as needed for cough for 6 days.
Disp:*250 mL* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
COPD 
.
Secondary diagnosis:
Anxiety
Congestive heart failure (diastolic, compensated)
Type 2 Diabetes Mellitus
Hypercholesterolemia

 
Discharge Condition:
fair

 
Discharge Instructions:
You were admitted with for shortness of breath due to a COPD 
exacerbation.  You were given steroids, nebulizer treatments, 
and your home COPD medications and your shortness of breath 
improved.
.
Pleas resume taking all medications as you were previously 
taking.  In addition, please take Levaquin for 6 more days (last 
dose ___ and prednisone for 9 more days according to 
the following taper:
* Please take 3 pills (60 mg) on ___, ___, and ___.
* Please take 2 pills (40 mg) on ___, ___, and 8.
* Please take 1 pill (20 mg) on ___, ___.
.
Please stop taking Valtrex.
.
Please call your physician or come to the emergency department 
for shortness of breath, chest pain, fevers, chills, or any 
other concerning symptoms.
 
Followup Instructions:
___